US07291635B2
A solution of 1.7 g (4.2 mmol) of the title B compound, N-(t-butoxycarbonyl-sulfamoyl)-N-(2,4-dimethoxyphenyl)glycine methyl ester in 9 mL of TFA/CH2Cl2 (1:1) is stirred at RT for 30 min. The solvent is removed under reduced pressure. CH2Cl2 is added to the residue and the solvent is removed under reduced pressure. The resulting oil is purified by chromatography using 10% EtOAc in CH2Cl2 as the eluant to afford N-sulfamoyl-N-(2,4-dimethoxyphenyl)glycine methyl ester as an oil which crystallizes on standing: mp=100-103° C.; 1H-NMR (CDCl3) δ 7.50 (d, J=8.09, 1H), 6.51-6.44 (m, 2H), 4.98 (br s, 2H), 3.84 (s, 3H), 3.81 (s, 3H), 3.75 (s, 3H).

reactant | N-(t-butoxycarbonyl-sulfamoyl)-N-(2,4-dimethoxyphenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1)OC)OC)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C16H24N2O8S
solvent | TFA CH2Cl2 | 9 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-sulfamoyl-N-(2,4-dimethoxyphenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1)OC)OC)S(N)(=O)=O)=O | C11H16N2O6S
